2110-11-10 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Sheaths pulled last night without incident.   Pt denies further
   episodes of chest pain or diaphoresis.  No SOB or other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-10**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 65 (60 - 74) bpm
   BP: 112/61(73) {92/41(52) - 116/62(74)} mmHg
   RR: 20 (15 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 27 Inch
             Total In:
                                                                    512 mL
                                                                    270 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    212 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    212 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: Somnlent but otherwise well-appering man in NAD. Oriented to
   person, month and year.
   HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   NECK: Supple with no appreciable JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Lower left-midline scar s/p
   appendectomy per pt.
   EXTREMITIES: No femoral bruits.   L arm AV fistula, + palpable thrill
   and audible bruit.  R femoral area soft without ecchymosis or hematoma,
   no bruits, 2+ femoral pulses bilaterally.  1+ DP and PT pulses
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   205 K/uL
   10.1 g/dL
   181 mg/dL
   9.8 mg/dL
   28 mEq/L
   5.0 mEq/L
   46 mg/dL
   90 mEq/L
   132 mEq/L
   30.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2110-11-9**]  05:42 PM
                             [**2110-11-10**]  02:30 AM
   WBC
   8.3
   7.6
   Hct
   30.1
   30.3
   Plt
   160
   205
   Cr
   9.4
   9.8
   TropT
   12.68
   16.03
   Glucose
   102
   181
   Other labs: PT / PTT / INR:13.5/28.8/1.2, CK / CKMB /
   Troponin-T:2414/333/16.03, ALT / AST:29/198, Alk Phos / T Bili:342/0.3,
   LDH:581 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease.
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Now chest pain free.  ECG showed
   anterior ischemic changes.  Pt received [**Last Name (LF) **], [**First Name3 (LF) 119**], aggrastat at OSH.
   - discuss with CT surgery regarding plans for CABG; if going to be done
   this week, will start heparin for anticoagulation in the setting of a
   BMS and will hold on [**First Name3 (LF) **].  If not done this week, will restart
   [**First Name3 (LF) **].
   - continue aspirin
   - bblocker, statin
   - check lipid panel, HBA1C, fasting glucose in AM
   .
   # PUMP:  No prior echos to compare.  Does not appear in heart failure
   clinically.
   - TTE
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   with some non-sustained VT 6-9 beats on tele overnight.  V fib
   secondary to ischemia and now reperfusion.
   - stop amiodarone today.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F and last
   dialysis was friday per patient.  Pt received aggrastat which is
   renally cleared and is likely having lasting effects on clotting time.
   Sheath pulled and no evidence of bleeding or hematoma.
   - pt to have dialysis today
   - continue Sevelamer, Nephrocaps, Sensipar
   - check platelet agglutination study today
   .
   # COPD: not contributing factor at this time and pt on no medications
   - continue to monitor
   .
   # Weight Loss: Due to poor PO intake per daughter.  [**Name (NI) **] etiologies
   may be malignancy (lung, colon cancer), metabolic (hyperthyroidism).
   TSH normal.  CXR done this morning.
   - guiac stool, pt will need outpatient colonscopy
   - f/u CXR for lung cancer screening
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue [**Last Name (LF) 119**], [**First Name3 (LF) 124**] give [**First Name3 (LF) 120**] or heparin as per above
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: no SC heparin for now given bleeding risk, PPI as per
   home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: call out to floor today

2110-11-11 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Echo - Left ventricular cavity enlargement with extensive regional
   systolic dysfunction c/w CAD (mid-LAD distribution, LVEF = 25-30). Mild
   aortic regurgitation. Pulmonary artery systolic hypertension. Mild
   mitral regurgitation. CT surgery, will likely get CABG Wed/[**Doctor First Name **], started
   heparin gtt w/o bolus.  Lipids at goal, A1C 5.4.  Guiac pos stool.  CXR
   - ? R hilar mass, ordered CT chest.  U/S -L ICA mod/severe stenosis
   60-69% w/ interval progression; R no sign stenosis. Wound cons. Pend,
   CK trending down, [**2116**].  Febrile o/n. BCx and UCx sent.  Had episode of
   hypxia/SOB, mild CP in HD, CXR unchanged, ECT STe in same leads as
   STEMI.  Given IV morphine, nebs, Nitro and back to HD.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2110-11-10**] 07:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-11**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 76 (63 - 104) bpm
   BP: 97/47(58) {56/33(40) - 143/125(128)} mmHg
   RR: 22 (13 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 100 kg
   Height: 27 Inch
             Total In:
                                                                    927 mL
                                                                     74 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    267 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    927 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   GENERAL: Somnlent but otherwise well-appering man in NAD. Oriented to
   person, month and year.
   HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   NECK: Supple with no appreciable JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Lower left-midline scar s/p
   appendectomy per pt.
   EXTREMITIES: No femoral bruits.   L arm AV fistula, + palpable thrill
   and audible bruit.  R femoral area soft without ecchymosis or hematoma,
   no bruits, 2+ femoral pulses bilaterally.  1+ DP and PT pulses
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   170 K/uL
   10.2 g/dL
   99 mg/dL
   8.0 mg/dL
   31 mEq/L
   4.1 mEq/L
   36 mg/dL
   92 mEq/L
   138 mEq/L
   30.4 %
   9.6 K/uL
        [image002.jpg]
                            [**2110-11-9**]  05:42 PM
                             [**2110-11-10**]  02:30 AM
                             [**2110-11-10**]  01:53 PM
                             [**2110-11-11**]  03:53 AM
   WBC
   8.3
   7.6
   9.6
   Hct
   30.1
   30.3
   30.4
   Plt
   160
   205
   170
   Cr
   9.4
   9.8
   8.0
   TropT
   12.68
   16.03
   17.03
   19.10
   Glucose
   102
   181
   99
   Other labs: PT / PTT / INR:15.7/61.9/1.4, CK / CKMB /
   Troponin-T:1216/50/19.10, ALT / AST:30/151, Alk Phos / T Bili:348/0.4,
   Albumin:3.9 g/dL, LDH:849 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease.
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Now chest pain free.  ECG showed
   anterior ischemic changes.  Pt received [**Last Name (LF) **], [**First Name3 (LF) 119**], aggrastat at OSH.
   - discuss with CT surgery regarding plans for CABG; if going to be done
   this week, will start heparin for anticoagulation in the setting of a
   BMS and will hold on [**First Name3 (LF) **].  If not done this week, will restart
   [**First Name3 (LF) **].
   - continue aspirin
   - bblocker, statin
   - check lipid panel, HBA1C, fasting glucose in AM
   .
   # PUMP:  No prior echos to compare.  Does not appear in heart failure
   clinically.
   - TTE
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   with some non-sustained VT 6-9 beats on tele overnight.  V fib
   secondary to ischemia and now reperfusion.
   - stop amiodarone today.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F and last
   dialysis was friday per patient.  Pt received aggrastat which is
   renally cleared and is likely having lasting effects on clotting time.
   Sheath pulled and no evidence of bleeding or hematoma.
   - pt to have dialysis today
   - continue Sevelamer, Nephrocaps, Sensipar
   - check platelet agglutination study today
   .
   # COPD: not contributing factor at this time and pt on no medications
   - continue to monitor
   .
   # Weight Loss: Due to poor PO intake per daughter.  [**Name (NI) **] etiologies
   may be malignancy (lung, colon cancer), metabolic (hyperthyroidism).
   TSH normal.  CXR done this morning.
   - guiac stool, pt will need outpatient colonscopy
   - f/u CXR for lung cancer screening
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue [**Last Name (LF) 119**], [**First Name3 (LF) 124**] give [**First Name3 (LF) 120**] or heparin as per above
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: no SC heparin for now given bleeding risk, PPI as per
   home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-11-10**] 08:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-11-12 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   64yo M with hx of CAD s/p PCI to OM1, PAF, ESRD on HD, HTN,
   hypercholesterolemia p/w STEMI from OSH, s/p BMS to mid-LAD
   24 Hour Events:
   Patient began to have a mix of BRBPR and melena during the morning.
   His heparin gtt was stopped.  He remains on ASA.  The CT torso was
   deferred today due to this.  His SBP's were on the low side in the 80's
   to 90's, but remained stable.  His Hct dropped from 30.4 to 26.1, after
   1 unit of PRBC it was 27.5.  He was given a total of 2 units PRBC.  GI
   evaluated him and felt that it was most consistent with a lower GI
   bleed, perhaps from watershed ischemia.  The plan is to get the CT t/m
   and see if it identifies a cause.  They are reluctant to do an EGD
   given his clinical condistion.  He is now on a po PPI [**Hospital1 **].
   This am he continues to have a slow leakage of dark maroonish stool,
   but it is slowing down.  Denies CP, SOB, dizziness, or abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-11-11**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-12**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 73 (66 - 76) bpm
   BP: 108/54(87) {78/32(43) - 116/62(87)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 100 kg
   Height: 27 Inch
             Total In:
                                                                  2,075 mL
                                                                     13 mL
   PO:
                                                                  1,020 mL
             TF:
   IVF:
                                                                    425 mL
                                                                     13 mL
   Blood products:
                                                                    630 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,075 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   GENERAL: Middle-aged male lying in bed in NAD
   HEENT: Sclera anicteric, OP clear
   NECK: Supple with no appreciable JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Patient breathing comfortably. CTAB, no crackles.
   ABDOMEN: +BS  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: 1+ nonpitting edema
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   123 K/uL
   10.3 g/dL
   80 mg/dL
   9.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   48 mg/dL
   91 mEq/L
   137 mEq/L
   29.4 %
   5.9 K/uL
        [image002.jpg]
                            [**2110-11-9**]  05:42 PM
                             [**2110-11-10**]  02:30 AM
                             [**2110-11-10**]  01:53 PM
                             [**2110-11-11**]  03:53 AM
                             [**2110-11-11**]  02:43 PM
                             [**2110-11-11**]  08:00 PM
                             [**2110-11-12**]  01:40 AM
   WBC
   8.3
   7.6
   9.6
   5.9
   Hct
   30.1
   30.3
   30.4
   26.1
   27.5
   29.4
   Plt
   160
   205
   170
   123
   Cr
   9.4
   9.8
   8.0
   9.6
   TropT
   12.68
   16.03
   17.03
   19.10
   23.80
   Glucose
   102
   181
   99
   80
   Other labs: PT / PTT / INR:13.6/28.6/1.2, CK / CKMB /
   Troponin-T:619/21/23.80, ALT / AST:22/92, Alk Phos / T Bili:317/0.5,
   Albumin:3.6 g/dL, LDH:690 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:6.2
   mg/dL
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease.
   .
   # GASTROINTESTINAL BLEED:  The patient had a mix of BRBPR and dark
   stool concerning for melena yesterday.  His Hct dropped from 30 to 26
   and only rose to 29.4 with 2 units of blood.  He continues to have
   slight oozing of dark stool today.  GI evaluated the patient and felt
   his GI bleed was very likely from a lower GI source such as bowel
   ischemia, diverticulosis, or possibly cancer (especially given his
   recent 100 lb weight loss).  GI feels the patient is at very high risk
   for both colonoscopy or EGD.  The patient
s SBP have been low in the
   80
s to 100
s, however he has remained Hemodynamically stable, making a
   brisk UGIB unlikely.  The heparin gtt was stopped yesterday when he
   started to bleed.
   -  Appreciate GI consult, will f/u recs
   -  Patient will go for a CT torso with contrast to evaluate for
   possible causes of LGIB.
   -  Will check Hct q6h and transfuse for Hct < 30 given recent ischemia.
   -  Active type and screen, 2 PIV
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Had episode of chest discomfort two
   days ago at dialysis, possibly flash pulmonary edema.
   - Given his recent GI bleed, unlikely to go for CABG in the near future
   (as this would require a heparin bolus).
   - Continue aspirin, bblocker, statin
   - After discussion on rounds today, it was decided to restart him on
   Plavix (as the heparin gtt was stopped) due to his high risk of instent
   thrombosus when on ASA alone.
   - Can consider stenting the LAD instead of CABG depending on the cause
   of his bleed and how long it lasts.
   .
   # PUMP: Echo with LVEF 25-30%, with near akinesis of distal
 of septum
   and anterior walls, distal inferior wall.  Apex mildly aneursymal and
   dyskinetic and remaining segments contract normally.
   - Continue bblocker and statin
   - no ACE given his recent hypotension, but would restart once his
   pressures become more stable
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   without episodes of VT on telemetry.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F.
   - pt to have dialysis today
   - f/u renal recs
   - continue Sevelamer, Nephrocaps, Sensipar
   - f/u  platelet agglutination study results
   .
   # COPD: pt wheezing on exam
   - PRN nebs
   .
   # Weight Loss: Due to poor PO intake per daughter.  [**Name (NI) **] etiologies
   may be malignancy (lung, colon cancer), metabolic (hyperthyroidism).
   TSH normal.  Stool guiac positive.  Will need outpatient colonoscopy
   - CT Torso with IV and PO contrast (okay per renal with HD today)
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue ASA
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: PPI as per home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: ICU given GI bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-11-11**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-11-13 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Plavix restarted
   CT scan showing bowel wall thickening at rectosigmoid junction
   Platelet study came back with abnormal collagen
   CTA of carotids done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-13**] 05:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 72 (69 - 76) bpm
   BP: 106/53(64) {67/43(55) - 108/56(67)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 100 kg
   Height: 27 Inch
                  Total In:
                                                                    813 mL
                  PO:
                                                                    425 mL
                  TF:
   IVF:
                                                                     13 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   GENERAL: Middle-aged male lying in bed in NAD
   HEENT: Sclera anicteric, OP clear
   NECK: Supple with no appreciable JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Patient breathing comfortably. CTAB, no crackles.
   ABDOMEN: +BS  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: 1+ nonpitting edema
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   153 K/uL
   10.9 g/dL
   79 mg/dL
   5.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   98 mEq/L
   138 mEq/L
   32.3 %
   5.2 K/uL
        [image002.jpg]
                             [**2110-11-10**]  02:30 AM
                             [**2110-11-10**]  01:53 PM
                             [**2110-11-11**]  03:53 AM
                             [**2110-11-11**]  02:43 PM
                             [**2110-11-11**]  08:00 PM
                             [**2110-11-12**]  01:40 AM
                             [**2110-11-12**]  07:40 AM
                             [**2110-11-12**]  12:40 PM
                             [**2110-11-12**]  05:26 PM
                             [**2110-11-13**]  01:57 AM
   WBC
   7.6
   9.6
   5.9
   5.2
   Hct
   30.3
   30.4
   26.1
   27.5
   29.4
   29.6
   27.8
   31.4
   32.3
   Plt
   [**Telephone/Fax (3) 3023**]53
   Cr
   9.8
   8.0
   9.6
   5.4
   TropT
   16.03
   17.03
   19.10
   23.80
   Glucose
   181
   99
   80
   79
   Other labs: PT / PTT / INR:13.6/28.6/1.2, CK / CKMB /
   Troponin-T:619/21/23.80, ALT / AST:22/92, Alk Phos / T Bili:317/0.5,
   Albumin:3.6 g/dL, LDH:690 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease.
   .
   # GASTROINTESTINAL BLEED:  The patient had a mix of BRBPR and dark
   stool concerning for melena yesterday.  His Hct dropped from 30 to 26
   and only rose to 29.4 with 2 units of blood.  He continues to have
   slight oozing of dark stool today.  GI evaluated the patient and felt
   his GI bleed was very likely from a lower GI source such as bowel
   ischemia, diverticulosis, or possibly cancer (especially given his
   recent 100 lb weight loss).  GI feels the patient is at very high risk
   for both colonoscopy or EGD.  The patient
s SBP have been low in the
   80
s to 100
s, however he has remained Hemodynamically stable, making a
   brisk UGIB unlikely.  The heparin gtt was stopped yesterday when he
   started to bleed.
   -  Appreciate GI consult, will f/u recs
   -  Patient will go for a CT torso with contrast to evaluate for
   possible causes of LGIB.
   -  Will check Hct q6h and transfuse for Hct < 30 given recent ischemia.
   -  Active type and screen, 2 PIV
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Had episode of chest discomfort two
   days ago at dialysis, possibly flash pulmonary edema.
   - Given his recent GI bleed, unlikely to go for CABG in the near future
   (as this would require a heparin bolus).
   - Continue aspirin, bblocker, statin
   - After discussion on rounds today, it was decided to restart him on
   Plavix (as the heparin gtt was stopped) due to his high risk of instent
   thrombosus when on ASA alone.
   - Can consider stenting the LAD instead of CABG depending on the cause
   of his bleed and how long it lasts.
   .
   # PUMP: Echo with LVEF 25-30%, with near akinesis of distal
 of septum
   and anterior walls, distal inferior wall.  Apex mildly aneursymal and
   dyskinetic and remaining segments contract normally.
   - Continue bblocker and statin
   - no ACE given his recent hypotension, but would restart once his
   pressures become more stable
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   without episodes of VT on telemetry.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F.
   - pt to have dialysis today
   - f/u renal recs
   - continue Sevelamer, Nephrocaps, Sensipar
   - f/u  platelet agglutination study results
   .
   # COPD: pt wheezing on exam
   - PRN nebs
   .
   # Weight Loss: Due to poor PO intake per daughter.  [**Name (NI) **] etiologies
   may be malignancy (lung, colon cancer), metabolic (hyperthyroidism).
   TSH normal.  Stool guiac positive.  Will need outpatient colonoscopy
   - CT Torso with IV and PO contrast (okay per renal with HD today)
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue ASA
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: PPI as per home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: ICU given GI bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-11-13**] 04:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-11-14 04:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease while
   awaiting CABG had a lower GI bleed.
   24 Hour Events:
   Platelet report not faxed.  HCT was 36 at 7pm.  Flex sig consistent w/.
   ischemia, no masses or other lesions.  Pt. continued on plavix.  Per CT
   surgery, possible CABG for on Monday.
   This am the patient denies chest pain, SOB, dizziness, or other
   symptoms.  Had brown stool yesterday with no blood or melena.  No stool
   overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-11-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-14**] 04:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 69 (63 - 75) bpm
   BP: 116/60(74) {91/29(52) - 126/80(88)} mmHg
   RR: 25 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 100 kg
   Height: 27 Inch
                  Total In:
                                                                    180 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
                                                                     30 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    180 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Middle-aged male lying in bed in NAD
   HEENT: Sclera anicteric, OP clear
   NECK: Supple with no appreciable JVP.
   CARDIAC: RRR, no MRG
   LUNGS: Patient breathing comfortably. CTAB, no crackles.
   ABDOMEN: +BS  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema, extremities warm and well perfused
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   182 K/uL
   12.2 g/dL
   79 mg/dL
   5.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   98 mEq/L
   138 mEq/L
   36.3 %
   6.1 K/uL
         [image002.jpg]
                             [**2110-11-10**]  01:53 PM
                             [**2110-11-11**]  03:53 AM
                             [**2110-11-11**]  02:43 PM
                             [**2110-11-11**]  08:00 PM
                             [**2110-11-12**]  01:40 AM
                             [**2110-11-12**]  07:40 AM
                             [**2110-11-12**]  12:40 PM
                             [**2110-11-12**]  05:26 PM
                             [**2110-11-13**]  01:57 AM
                             [**2110-11-13**]  07:04 PM
   WBC
   9.6
   5.9
   5.2
   6.1
   Hct
   30.4
   26.1
   27.5
   29.4
   29.6
   27.8
   31.4
   32.3
   36.3
   Plt
   170
   123
   153
   182
   Cr
   8.0
   9.6
   5.4
   TropT
   17.03
   19.10
   23.80
   Glucose
   99
   80
   79
   Other labs: PT / PTT / INR:13.6/28.6/1.2, CK / CKMB /
   Troponin-T:619/21/23.80, ALT / AST:22/92, Alk Phos / T Bili:317/0.5,
   Albumin:3.6 g/dL, LDH:690 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease while
   awaiting CABG had a lower GI bleed.
   .
   # GASTROINTESTINAL BLEED:  Pt started to have GI bleed when heparin was
   started.  CT scan showed thickening at rectosigmoid junction concerning
   for cancer, how a flex sig yesterday by GI showed no mass and only
   erythema at the recto-sigmoid junction which was likely secondary to
   ischemia.  Hct is stable at 32 today and no further passage of bloody
   stools.
   - Daily HCT
   - Active type and screen, 2 PIV
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Had episode of chest discomfort with
   dialysis on [**2110-11-10**], none since.
   - As the patient is no longer having a GI bleed and its origin was from
   ischemia, the patient can likely have his CABG next week.
   - Continue aspirin, bblocker, statin
   - Continue on Plavix (started [**2110-11-12**]) due to his high risk of instent
   thrombosus when on ASA alone..
   .
   # PUMP: Patient with chronic systolic heart failure - Echo with LVEF
   25-30%, with near akinesis of distal
 of septum and anterior walls,
   distal inferior wall.  Apex mildly aneursymal and dyskinetic and
   remaining segments contract normally.
   - Continue bblocker and statin
   - no ACE given his recent hypotension, but would restart after CABG.
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   without episodes of VT on telemetry.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F.
   - continue dialysis M, W, F
   - f/u renal recs
   - continue Sevelamer, Nephrocaps
   .
   # COPD: pt wheezing on exam
   - PRN nebs
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue ASA, Plavix
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: PPI as per home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: patient can be called out to the floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-11-13**] 04:36 AM
   22 Gauge - [**2110-11-13**] 10:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-11-15 05:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt has had no further bleeding episodes and HCT has been stable.
   Denies chest pain, SOB, nausea, vomiting, abdominal pain.  No fevers,
   chills, night sweats.  No LE swelling.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-11-14**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-11-15**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 66 (62 - 74) bpm
   BP: 115/60(77) {91/41(53) - 124/91(96)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 100 kg
   Height: 27 Inch
                  Total In:
                                                                    670 mL
                  PO:
                                                                    660 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: Middle-aged male lying in bed in NAD
   HEENT: Sclera anicteric, OP clear
   NECK: Supple with no appreciable JVP.
   CARDIAC: RRR, no MRG
   LUNGS: Patient breathing comfortably. CTAB, no crackles.
   ABDOMEN: +BS  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema, extremities warm and well perfused
   SKIN: Ulceration on L anterior skin with eschar and granulation tissue.
   Chronic skin changes of bilateral lower extremities c/w statis
   dermatitis.
   Labs / Radiology
   189 K/uL
   11.1 g/dL
   88mg/dL
   5.1 mg/dL
   29 mEq/L
   3.7 mEq/L
   20 mg/dL
   100 mEq/L
   137 mEq/L
   33.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2110-11-11**]  03:53 AM
                             [**2110-11-11**]  02:43 PM
                             [**2110-11-11**]  08:00 PM
                             [**2110-11-12**]  01:40 AM
                             [**2110-11-12**]  07:40 AM
                             [**2110-11-12**]  12:40 PM
                             [**2110-11-12**]  05:26 PM
                             [**2110-11-13**]  01:57 AM
                             [**2110-11-13**]  07:04 PM
                             [**2110-11-14**]  05:50 AM
   WBC
   9.6
   5.9
   5.2
   6.1
   5.1
   Hct
   30.4
   26.1
   27.5
   29.4
   29.6
   27.8
   31.4
   32.3
   36.3
   32.0
   Plt
   170
   123
   153
   182
   187
   Cr
   8.0
   9.6
   5.4
   8.0
   TropT
   19.10
   23.80
   Glucose
   99
   80
   79
   66
   Other labs: PT / PTT / INR:14.2/28.1/1.2, CK / CKMB /
   Troponin-T:619/21/23.80, ALT / AST:22/92, Alk Phos / T Bili:317/0.5,
   Albumin:3.6 g/dL, LDH:690 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.3
   mg/dL
   Significant atherosclerotic disease involving the carotid arteries
   with 50% stenosis in the proximal cervical internal carotid artery on
   the
   right and approximately 80-85%% stenosis over a short segment in the
   proximal
   left cervical internal carotid artery. No flow limitation distally.
   Assessment and Plan
   64yo M with hx of ESRD on HD, CAD, hypercholesterolemia, CVA p/w chest
   pain and STEMI, v. fib X 3 at OSH, resolved with shock, transferred
   from OSH for cardiac cath, now s/p LAD BMS stent with 3v disease while
   awaiting CABG had a lower GI bleed.
   .
   # GASTROINTESTINAL BLEED:  Pt started to have GI bleed when heparin was
   started.  CT scan showed thickening at rectosigmoid junction concerning
   for cancer, however a flex sig yesterday by GI showed no mass and only
   erythema at the recto-sigmoid junction which was likely secondary to
   ischemia.  Hct is stable at 32 today and no further passage of bloody
   stools.  Pt
s daughter reports that he had colonoscopy within the last
   3 months which did not show etiology of bleed.
   - Daily HCT
   - Active type and screen, 2 PIV
   - will need outpatient colonoscopy and further evaluation as inpatient
   if pt starts to bleed again
   .
   # CORONARIES:  Pt with hx of CAD, p/w STEMI and cath showing 3v
   disease, s/p BMS stent to LAD.  Had episode of chest discomfort with
   dialysis on [**2110-11-10**], none since.
   - As the patient is no longer having a GI bleed and its origin was from
   ischemia, the patient can likely have his CABG next week.
   - Continue aspirin, bblocker, statin
   - Continue on Plavix (started [**2110-11-12**]) due to his high risk of instent
   thrombosus when on ASA alone.
   - will need to discuss with CT surgery regarding potential stent to
   carotids given CT findings
   .
   # PUMP: Patient with chronic systolic heart failure - Echo with LVEF
   25-30%, with near akinesis of distal
 of septum and anterior walls,
   distal inferior wall.  Apex mildly aneursymal and dyskinetic and
   remaining segments contract normally.
   - Continue bblocker and statin
   - no ACE given his recent hypotension, but would restart after CABG.
   .
   # RHYTHM:  S/P v. fib X 3 at OSH with shock X 3. Has been in NSR since
   without episodes of VT on telemetry.
   - continue to monitor on tele
   .
   # ESRD on HD: unclear origin of disease.  Pt dialyzed M, W, F.
   - continue dialysis M, W, F
   - f/u renal recs
   - continue Sevelamer, Nephrocaps
   .
   # COPD: pt wheezing on exam
   - PRN nebs
   .
   # Left leg ulcer: appears chronic
   - wound care consult
   .
   # Hx of CVA:
   - continue ASA, Plavix
   .
   #  FEN: cardiac, renal diet, replete lytes as needed
   .
   #  Prophylaxis: PPI as per home tx, bowel regimen
   .
   #  Access: 2 PIV on right arm, fistula left arm
   .
   #  Code Status: FULL, confirmed with patient and daughter
   .
   #  Contact: Daughter [**First Name4 (NamePattern1) 532**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2967**]
   .
   # Dispo: patient can be called out to the floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-11-13**] 04:36 AM
   22 Gauge - [**2110-11-13**] 10:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: